.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1515SQ-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1515SQ-47N_freq port1 port2 PARAMS: Cpar=0.1886pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=26.74
+ R2=0.253
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=308
+ L_EL=48.6
+ L_F0=940E6
+ PkZ=0
.ends 1515SQ-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1515SQ-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-2.25GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1515SQ-68N_freq port1 port2 PARAMS: Cpar=0.1066pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=21.52
+ R2=0.463
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=460
+ L_EL=51.3
+ L_F0=1000E6
+ PkZ=0
.ends 1515SQ-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1515SQ-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1515SQ-82N_freq port1 port2 PARAMS: Cpar=0.1186pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10.76
+ R2=0.607
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=448
+ L_EL=60.9
+ L_F0=950E6
+ PkZ=0
.ends 1515SQ-82N_freq

